US06949563B2
A solution of 3-aminothiophene-2-carboxylic acid methyl ester (110 mg, 0.701 mmol), and 1H-Pyrrolo[2,3-b]pyridine-4-carboxaldehyde (107 mg, 0.736 mmol) in TFA/CH2Cl2 (2 mL/2 mL) was stirred at 50° C. for 3 hr. The solution was cooled to 0° C. and triethylsilane (0.224 mL, 1.40 mmol) was added dropwise. The mixture was then stirred at 50° C. for 4 hr and treated with 2 N NaOH (aq)(to pH 6) and then saturated NaHCO3 (aq)(to pH 8). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (3×10 mL). The organic extracts were combined, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over silica gel (gradient of 20% EtOAc/Hexanes to 70% EtOAc/Hexanes) to yield methyl 3-[(1H-Pyrrolo[2,3-b]pyridin-4-ylmethyl) amino]thiophene-2-carboxylate (98 mg, 49%). MS (ES+): 287 [MH+]. 1H NMR (DMSO-d6, 400 MHz): δ 3.75 (s, 3H), 4.84 (d, 2H, J=4.4 Hz), 6.74 (dd, 1H, J=2.8 Hz & 2.0 Hz), 6.70 (d, 1H, J=5.6 Hz), 7.01 (d, 1H, J=4.8 Hz), 7.51 (t, 1H, J=2.4 Hz), 7.61 (d, 1H, J=5.2 Hz), 8.18 (d, 1H, J=4.8 Hz).

reactant | 3-aminothiophene-2-carboxylic acid methyl ester | 0.701 mmol, 110 mg | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | 1H-Pyrrolo[2,3-b]pyridine-4-carboxaldehyde | 0.736 mmol, 107 mg | N1C=CC2=C1N=CC=C2C=O | C8H6N2O
reactant | triethylsilane | 1.40 mmol, 0.224 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | NaOH | 2 N, pH 6 | [OH-].[Na+]
reactant | NaHCO3 | pH 8 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl 3-[(1H-Pyrrolo[2,3-b]pyridin-4-ylmethyl) amino]thiophene-2-carboxylate | 98 mg, 49% | N1C=CC=2C1=NC=CC2CNC2=C(SC=C2)C(=O)OC | C14H13N3O2S
